US07214673B2
2-Methyl-10-(4-methyl-(S)-3-(2-pyridin-4-yl-ethyl)-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene trihydrochloride hydrate
Combine 2-methyl-10-((S)-3-(2-pyridin-4-yl-ethyl)-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene (380 mg, 0.94 mmol) and formaldehyde (82 μL, 1.04 mmol, 37% in water), and methylene chloride (10 mL). Stir 5 minutes at ambient temperature. Add sodium triacetoxyborohydride (300 mg, 1.41 mmol) and stir 30 minutes at ambient temperature. Dilute with saturated sodium bicarbonate solution and extract with methylene chloride. Dry the extracts with sodium sulfate, filter and concentrate the filtrate. Purify by silica gel chromatography using 2N ammonia in methanol-methylene chloride (1%–3%) as the eluent to give 345 mg of a brown foam. Purify again by silica gel chromatography using 2N ammonia in methanol-methylene chloride (0%–6.5%) as the eluent to give the free base. Crystallize as the trihydrochloride salt from ethyl acetate and ethanol to give the title compound (244 mg, 62%): mp 214–217° C. dec.; mass spectrum (ion spray): m/z=418 (M+1), 416 (M−1). Analysis calculated for C24H27N5S.3HCl·0.9H2O: C, 53.07; H, 5.90; N, 12.89. Found: C, 53.31; H, 5.54; N, 12.75.

reactant | 2-methyl-10-((S)-3-(2-pyridin-4-yl-ethyl)-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.94 mmol, 380 mg | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC=NC=C3 | C23H25N5S
reactant | formaldehyde | 1.04 mmol, 82 μL | C=O | CH2O
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
reactant | sodium triacetoxyborohydride | 1.41 mmol, 300 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-Methyl-10-(4-methyl-(S)-3-(2-pyridin-4-yl-ethyl)-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene trihydrochloride hydrate | 345 mg | O.Cl.Cl.Cl.CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)CCC3=CC=NC=C3 | InChI=1S/C24H27N5S.3ClH.H2O/c1-17-15-20-23(26-21-5-3-4-6-22(21)27-24(20)30-17)29-14-13-28(2)19(16-29)8-7-18-9-11-25-12-10-18;;;;/h3-6,9-12,15,19,27H,7-8,13-14,16H2,1-2H3;3*1H;1H2/t19-;;;;/m0..../s1
